US07060827B2
In a like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 7-amino-1,2,3,4-tetrahydroisoquinoline were reacted to provide 2-chloro-N4-[2-(2-chloro-5-fluoropyrimidin-4-yl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.08 (d, 1H, J=3.0 Hz), 7.95 (d, 1H, J=6.0 Hz), 7.50–7.42 (m, 2H), 7.21 (d, 1H, J=8.4 Hz), 6.96–6.90 (m, 1H), 4.95 (s, 2H), 4.04 (t, 2H, J=5.7 Hz), 2.99 (t, 2H, J=5.7 Hz); 19F NMR (282 MHz, CDCl3): −42555, −44573; LCMS: purity: 98%; MS (m/e): 410(MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 7-amino-1,2,3,4-tetrahydroisoquinoline | NC1=CC=C2CCNCC2=C1 | C9H12N2
product | 2-chloro-N4-[2-(2-chloro-5-fluoropyrimidin-4-yl)-1,2,3,4-tetrahydroisoquinolin-7-yl]-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2CCN(CC2=C1)C1=NC(=NC=C1F)Cl)F | C17H12Cl2F2N6
